US04448781
Hydrolysis of 4-[2-(1-imidazolylmethyl)phenoxy]butyric acid ethyl ester by the method of Example 14 gave 4-[2-(1-imidazolylmethyl)phenoxy]butyric acid, m.p. 150°-152° C. (from water). Found: C, 64.27, H, 6.29, N, 10.71. C14H16N2O3 requires: C, 64.59, H, 6.19, N, 10.76%.

reactant | 4-[2-(1-imidazolylmethyl)phenoxy]butyric acid ethyl ester | C(C)OC(CCCOC1=C(C=CC=C1)CC=1NC=CN1)=O | C16H20N2O3
solvent | water | O | H2O
product | 4-[2-(1-imidazolylmethyl)phenoxy]butyric acid | N1C(=NC=C1)CC1=C(OCCCC(=O)O)C=CC=C1 | C14H16N2O3
